US07612114B2
4-Methoxy-1-[2-(4-methoxyphenyl)vinyl]-2-nitrobenzene
To a solution of 1-bromo-4-methoxy-2-nitrobenzene (2.3 g) in acetonitrile (20 ml) was sequentially added 4-methoxystyrene (1.5 g), N,N-diisopropylethylamine (3.9 g), 2-(di-tert-butylphosphino)biphenyl (145 mg) and palladium(II) acetate (112 mg), and the solution was stirred for 15 hours at 80° C. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.4 g).

reactant | 1-bromo-4-methoxy-2-nitrobenzene | 2.3 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | 4-methoxystyrene | 1.5 g | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | N,N-diisopropylethylamine | 3.9 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 145 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-Methoxy-1-[2-(4-methoxyphenyl)vinyl]-2-nitrobenzene | 1.4 g | COC1=CC(=C(C=C1)C=CC1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H15NO4
